US04304781
1-(4-Nitrobenzyl)-2-(benzylthio)-pyridinium bromide
A mixture of 4-nitrobenzyl bromide (1.08 g) and 2-(benzylthio)pyridine (1.05 g) were heated at 100° C. for 4 hours and cooled. Crystals which formed on trituration with acetone were removed by filtration and dried to give the title compound as a quarter hydrate (1.6 g) mp 160°-162° C. (Found C, 53.8; H, 4.5; N, 6.4%. C19H17BrN2O2S1/4H2O requires C, 54.1; H, 4.2; N, 6.6%).

reactant | 4-nitrobenzyl bromide | 1.08 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 2-(benzylthio)pyridine | 1.05 g | C(C1=CC=CC=C1)SC1=NC=CC=C1 | C12H11NS
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Nitrobenzyl)-2-(benzylthio)-pyridinium bromide | [Br-].[N+](=O)([O-])C1=CC=C(C[N+]2=C(C=CC=C2)SCC2=CC=CC=C2)C=C1 | InChI=1S/C19H17N2O2S.BrH/c22-21(23)18-11-9-16(10-12-18)14-20-13-5-4-8-19(20)24-15-17-6-2-1-3-7-17;/h1-13H,14-15H2;1H/q+1;/p-1
